US05547949
Preparation of 2-(2,2,6,6-tetramethyl-1-piperidinyl)-4-(1piperazinyl)-6-(1-pyrrolidinyl)pyrimidine
4-chloro-2-(2,2,6,6-tetramethyl-1-piperidinyl)-6-(1-pyrrolidinyl) pyrimidine is reacted with piperazine as described in Example 5 to obtain the title compound in a yield of 80.2%, m.p.:134°-137° C.

reactant | 4-chloro-2-(2,2,6,6-tetramethyl-1-piperidinyl)-6-(1-pyrrolidinyl) pyrimidine | ClC1=NC(=NC(=C1)N1CCCC1)N1C(CCCC1(C)C)(C)C | C17H27ClN4
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(2,2,6,6-tetramethyl-1-piperidinyl)-4-(1piperazinyl)-6-(1-pyrrolidinyl)pyrimidine | yield of 80.2% | CC1(N(C(CCC1)(C)C)C1=NC(=CC(=N1)N1CCNCC1)N1CCCC1)C | C21H36N6
